US05534481
Preparation of 4-allyloxy-2-methyl-2H-indazole-3-sulfonamide (Intermediate No. 203)
1.3 g of allyl bromide was added to a mixture comprising 5 g (22 mmol) of 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide and 50 ml of a DMF solution of 1.9 g (22 mmol) of sodium hydrogencarbonate, and the mixture was stirred at room temperature for 12 hours. The mixture was poured into ice water, acidified with citric acid and extracted with ethyl acetate. The organic layer was washed, then concentrated and purified by column chromatography (hexane/ethyl acetate=2/1) to obtain 1.9 g (yield: 32.5%) of the desired product. Melting point: 143°-144° C.

reactant | allyl bromide | 1.3 g | C(C=C)Br | C3H5Br
reactant | 4-hydroxy-2-methyl-2H-indazole-3-sulfonamide | 22 mmol, 5 g | OC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H9N3O3S
reactant | sodium hydrogencarbonate | 22 mmol, 1.9 g | C(O)([O-])=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-allyloxy-2-methyl-2H-indazole-3-sulfonamide | 1.9 g, yield: 32.5% | C(C=C)OC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C11H13N3O3S
